US07157447B2
Methyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoate.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 38, methyl 2-(aminomethyl)-5-fluorobenzoate. 1H NMR (CDCl3, 500 MHz) δ ppm: 1.61 (6H, s, gem-Me), 3.88 (3H, s, OMe), 3.97 (2H, t, J=5.5 Hz, CH2), 4.02 (2H, t, J=5.5 Hz, CH2), 4.73 (2H, d, J=6.7 Hz, NCH2), 5.25 (2H, s, OCH2), 7.19 (1H, dt, J=3, 8.5 Hz, Ar—H), 7.27–7.31 (3H, m, Ar—Hs), 7.48–7.50 (2H, m, Ar—Hs), 7.61 (1H, dd, J=5.5, 8.5 Hz, Ar—H), 7.66 (1H, dd, J=3, 9.5 Hz, Ar—H). LC/MS m/z 496 (M+H).

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | methyl 2-(aminomethyl)-5-fluorobenzoate | NCC1=C(C(=O)OC)C=C(C=C1)F | C9H10FNO2
product | Methyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C(=O)OC)C=C(C=C1)F | C26H26FN3O6
